Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I tried to commit suicide." 

 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including initial consultation note by Dr. ___ dated 
___, initial consultation note by Dr. ___ dated 
___, and admission note by Dr. ___ dated 
___. 
. 
Briefly, this is a ___ year old single, homeless, unemployed man 
with unclear psychiatric history but with unconfirmed history of 
schizophrenia and intellectual disability, reported prior 
psychiatric hospitalizations and unconfirmed prior suicide 
attempts, who presented to ___ ED via EMS after ___ police 
found him on the ___ story ledge of a building. Patient admitted 
to
Deaconess ___ after endorsing suicidal ideation with AVH in the 
setting of recent homelessness. 
. 
Upon initial interview, patient described a tumultuous childhood 
with history of sexual, physical, and emotional abuse. Noted he 
was primarily raised by his mother and that he felt his mother 
put a curse on him and his brother and sister. Stated that since 
then, demons have been following him and making sure he is not 
successful in life by ensuring he cannot find a job, lose 
weight,
find friends, or find housing. Reported feeling depressed his 
entire life. Mr. ___ reported that in ___ he moved to 
___ from ___ after meeting a woman named ___ on 
___. He described it as a friendship and also stated he 
attempted to be romantically involved with her, noting she has 
"BPD... borderline personality disorder," describing that they 
fight frequently and that "a switch flips and she'll start 
screaming at me." Patient reported that 3 weeks ago, ___ told 
him she cannot live with him anymore and he has felt more 
depressed and hopeless. Endorsed seeing demons in the triage 
area and endorsed AH, stating "demons are laughing at me now," 
however, denied a history of AH. 
. 
ED Course: patient was in adequate behavioral control and did 
not require physical or chemical restraints. 
. 
Patient seen with interdisciplinary team. Upon interview with 
Mr. ___, who was preoccupied with housing and "the black 
magic curse on my life" and was notably a vague and inconsistent 
historian. Reported he came to ___ after "I tried to jump from 
a 6 story parking garage." Stated that he has "been under a
black magic curse my entire life; I didn't understand this until 
I was about ___ years old-- I've always ended up homeless, people 
never like me, it's the same thing over and over again even 
though I'm a good person." Reported that when he was ___ years 
old he started researching online how to make his life better 
when he started reading about black magic, which he felt 
explained all of the bad things that happened to him." Stated 
that when he was young, after his parents broke up, he felt his 
mother started doing witchcraft and that "everything has failed 
throughout my life." 
. 
Patient reported longstanding history of depression, stating his 
mother was an alcoholic and "would tell me and my brother that 
we were keeping her down and preventing her from getting married 
again." Stated that his mother also attempted to molest him and 
his brother when they were children. Did report struggling in 
school, stating he never had any friends and that he was in
special education classes, although could not state why he was 
in special ed classes. Could not recall how far he made it in 
school, but stated he "got an F on everything." Receives SSI, 
but has been intermittently homeless. 
. 
Approximately ___ years ago, patient reported meeting a friend on 
___, which he was browsing because hew as lonely. Stated 
that he connected with ___, who "has been helping me get things 
together." He moved from ___ to ___ and 
lived with her for about ___ years; stated he has been able to 
save money as she does not charge much for rent and that things 
had been going relatively well for him until about ___ weeks ago 
when she told him he needed to leave, stating his presence was 
making her feel depressed and "I have a curse and she told me I 
couldn't be there anymore." In this setting, patient stated he 
started to look up ways to kill himself and decided to jump off 
a ledge. Patient stated he felt hopeless and that "everytime I'm 
doing
good, I get knocked down again." Stated he did not want to have 
to pay too much for rent because then he would not have enough 
spending money and would not be able to go to the gym. 
. 
When asked what prevented him from jumping, patient stated that 
he looked down and became scared. Noted that "next time, I won't 
look down, I'll just jump." Of note, he did state that he called 
his psychiatrist for help prior to presentation. Stated he was 
afraid of pain, and when I pointed out that suicide by any means 
is painful, patient became quite irritable, and requested the 
interview be terminated. Endorsed conditional SI, stating if he 
was discharged without a place to go, he would kill himself. 
. 
Psychiatric review of systems on my examination was largely 
deferred due to patient terminating the interview. However, 
patient did report history of AH beginning in ___, for which he 
stated he sought an exorcism for. Of note, per Dr. ___, he 
denied AH until recently. Also reported ___, stating hew as
"seeing demons" with "big teeth as long as my fingers." Per Dr. 
___ admission note, patient did endorse depressed 
mood, anhedonia, increased appetite, insomnia and hypersomnia, 
psychomotor retardation, loss of energy, poor concentration, 
hopelessness and recurrent thoughts of death. Reported panic 
attacks when he knows he is going to be homeless with shortness 
of breath, chest tightness, sweating, shaking, extreme anxiety. 
Also reported history of trauma including nightmares. Denied 
flashbacks, hypervigilence and avoidance. Patient also denied 
thought broadcasting/insertion, elevated/irritable mood, periods 
of increased activity, decreased need for sleep, grandiosity. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: unclear if any formal diagnoses in the past but
reported history of schizophrenia and intellectual disability
(unconfirmed)  
- SA/SIB: Per Dr. ___ initial note dated ___ 
patient
reported 3 prior suicide attempts with the first at age ___ when
he attempted to jump off an overpass in ___. Stated his
second SA was when he found out ___ had borderline personality
disorder, "I realized that I was being set up," and he allegedly
attempted to jump in front of a bus. Patient reported that his
third suicide attempt was when he believed the devil was chasing
him, he felt fearful for his life and called ___. Reported that
since being in ___, he has been hospitalized at ___ for SI. 
On
my examination, patient reported ___ prior suicide attempts,
stating his first SA was when he tried to jump over an overpass
but someone called ___, reported his second suicide attempt was
when he attempted to jump in front of a bus but the bus stopped
before it hit him. Stated the third time he wanted to get a fake
gun and tried to kill himself via suicide by cop, but did not go
through with it. Of note, patient could not recall what happened
during his ___ and ___ suicide attempt 
- Hospitalizations: Patient initially reported 3 prior
psychiatric hospitalizations in the past with one in ___
and second and third at ___ in the ___. On my examination,
patient reported 4 prior psychiatric hospitalizations stating 
the
first was at ___ in ___ at age ___
for reported suicide attempt, the second was ___ months 
following
that at ___ after he allegedly attempted to jump in 
front
of a bus. Reported his third hospitalization was at ___ at ___, but then he stated this was not a
hospitalization and that his fourth hospitalization was at 
___ where he reportedly stayed for a week. Of note,
per BEST, patient has no history of inpatient psychiatric
admissions
- Psychiatrist: Dr. ___ at ___ Counseling 
- Therapist: ___ at ___ Counseling 
- Medication Trials: Per OMR, has been on numerous medications
including Abilify, Zyprexa, Geodon, Zoloft 
. 
Past Medical History: 
Obesity 

 
Social History:
Substance History:  
- Alcohol: denies
- Illicits: occasional cannabis use with last use 3 days prior 
to presentation
- Tobacco: history of tobacco use 
.
Social History: ___
Family History:
Family History: 
- Diagnoses: Denied to Dr. ___ reported brother with 
history of depression 
- Suicides: denied to Dr. ___ reported brother with 
history
of suicide attempt 
- Substance Use: denies 
 
Physical Exam:
Vital Signs:
T: 98, BP: 162/84, HR: 50, RR: 16, 98%RA

GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes,
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted

NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk
bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all
distributions
     - VII: no facial droop, facial musculature symmetric and 
___
strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm
swing

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with multiple errors ___I can't" 
- Orientation: oriented to person, time, place, situation
- Executive function (go-no go, Luria, trails, FAS): not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min and ___ after multiple
choice
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "___, ___, ___
- Calculations: 
     - $1.75 = "8 quarters"
- Abstraction: 
     - "Don't judge a book by its cover" = "Don't look at the
book because it's not true"
     - bicycle/train: "there's no similarity" 
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS:
- Appearance: no acute distress, ___ male appearing
stated age, adequate hygiene and grooming, wearing hospital gown
- Behavior: calm, forthcoming, no psychomotor agitation or
retardation, fair eye contact
- Attitude: cooperative, superficially cooperative, engaged,
friendly, hostile, open, secretive, suspicious, apathetic, 
easily
distracted, focused, defensive, ruminative, preoccupied,
disinterested,
-Mood: "hopeless"
- Affect: mood-congruent, dysthymic, restricted
- Speech: slowed rate, soft volume, and prosody
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: endorsing ongoing SI with plan, endorsing
recent VH prior to admission and AH prior to arrival to ED,
reporting delusions, denies HI, no evidence of paranoia, not
appearing to be attending to internal stimuli
- Judgment and Insight: Poor/poor

 
Pertinent Results:
___ 07:30AM   GLUCOSE-118* UREA N-10 CREAT-1.0 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-26 ANION GAP-11
___ 07:30AM   estGFR-Using this
___ 07:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 07:30AM URINE  HOURS-RANDOM
___ 07:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 07:30AM   WBC-7.4 RBC-4.69 HGB-13.6* HCT-40.2 MCV-86 
MCH-29.0 MCHC-33.8 RDW-13.2 RDWSD-41.1
___ 07:30AM   NEUTS-57.4 ___ MONOS-6.5 EOS-4.2 
BASOS-0.4 IM ___ AbsNeut-4.24 AbsLymp-2.30 AbsMono-0.48 
AbsEos-0.31 AbsBaso-0.03
___ 07:30AM   PLT COUNT-287
___ 07:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
This is a ___ year old single, homeless, unemployed man with 
unclear psychiatric history but with unconfirmed history of 
schizophrenia and intellectual disability,
reported prior psychiatric hospitalizations and unconfirmed 
prior suicide attempts, who presented to ___ ED via EMS after 
___ police reportedly found him on the ___ story ledge of a 
building. Patient admitted to ___ after endorsing 
suicidal ideation with AVH in the setting of recent 
homelessness.
.
Patient was notably a very unreliable and inconsistent 
historian, and given lack of reliable collateral, an accurate 
history was very difficult to obtain. Per Mr. ___, he has 
been under a "black magic" curse from his mother for at least ___ 
years, which he blames for his intermittent homelessness, 
inability to lose weight, and ongoing psychosocial issues. Mr. 
___ was inconsistent in reporting psychotic symptoms, at 
one point telling one clinician he had never heard AH until 
recently, on my examination reported he has heard AH for some 
time. Patient also notably inconsistent in reporting his 
hospitalizations and reported prior suicide attempts as noted 
above with patient reporting ___ prior suicide attempts on my 
examination, 3 prior suicide attempts to Dr. ___, and 
later to a nurse on the unit, denied prior suicide attempts. 
Mental status examination was notable for an obese man with good 
hygiene and grooming who was quite preoccupied with his 
narrative of a curse ruining his life, complaining of AVH, but 
with no evidence that he was responding to internal stimuli. He 
did not appear depressed or anxious on my examination, nor did 
he appear psychotic. 
. 
Diagnostically, etiology of presentation is unclear. Of note, 
given lack of dysthymia/dysphoria on my examination, I do not 
believe he meets criteria for MDD. No history to suggest a prior 
episode of mania and he was certainly not manic during this 
admission-- no evidence to suggest a prior or current manic 
episode. Although he does endorse delusion of black magic and 
AVH, he does not appear distressed when discussing his reported 
curse, and he did not appear to be responding to internal 
stimuli at any time during his hospitalization. Thought process 
was consistently linear, goal oriented throughout his 
hospitalization. He was noted to be somewhat demanding and 
entitled to housing and assistance with weight loss, and I would 
place dependent traits on the differential. No evidence to 
support a prior neurocognitive/learning disability in the past, 
given the patient's unreliable nature; although I think that 
neuropsych testing in the future would be potentially useful. 
Patient reports some history of intermittent cannabis use, which 
may be contributing to his current presentation. Nothing in his 
medical history that I would suspect would be contributing to 
his presentation. 
.
#. Legal/Safety: patient admitted to ___ on a ___, upon admission, he signed a CV, which was accepted. Of note, 
patient maintained his safety throughout his hospitalization on 
15 minute checks and did not require physical or chemical 
restraints. 
.
#. R/O psychosis: as noted above with low suspicion for primary 
psychotic disorder
- Patient was not engaged in his treatment during his 
hospitalization, refusing all groups and minimally participatory 
in cooperating with his treatment team. 
- We continued Zoloft 100 mg po daily and Olanzapine 20 mg po 
qhs; offered Olanzapine 5 mg po bid prn agitation, which he did 
not require 
- patient spent the majority of his hospitalization in bed 
sleeping despite numerous attempts to engage him in care
- Of note, I called ___, who retrieved the report on 
___. Of note, despite the patient reporting he was on the 
ledge, the police report on that day did not support this, 
stating he was not on a ledge but was on the rooftop of the 
apartment building. 
- Attempted to obtain records from prior reported 
hospitalizations, however, these records were not available to 
us prior to discharge
- Collateral was obtained from his outpatient therapist, who has 
known him for a number of months and noted that Mr. ___ has 
endorsed this chronic alleged curse since meeting him with 
chronic feelings of hopelessness, helplessness, chronic SI; 
therapist was comfortable seeing him on ___ upon discharge. 
- Of note, on day of discharge, patient stated he wanted to 
leave and that he had talked with his friend and could return 
home there. Stated he planned on following up with his 
outpatient treaters.  
. 
#. HTN: hypertensive on admission with BP's in the 140's to 
150's  
- Continued to monitor
- Patient should follow up with his PCP for further monitoring 
. 
#. Obesity: as noted above
- Held phenterimine during this admission, as this could be 
contributing to more irritability and reported depression. 
.
RISK ASSESSMENT: Patient is at somewhat elevated chronic risk 
for suicide given some concern for delusions of a chronic curse, 
ongoing poor psychosocial functioning, limited psychosocial 
supports, male sex, reported suicide attempts (unconfirmed). 
However, per outpatient therapist and per the patient, he 
appears to be at or near his baseline with no confirmed history 
of prior attempts and benign mental status examination as noted 
above. At this time, given his linear, goal and future oriented 
thought process with no evidence of a major mood, psychotic, 
anxiety disorder, I do not believe he is at acutely elevated 
risk at this time. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO QHS 
2. OLANZapine 20 mg PO QHS 
3. phentermine 37.5 mg oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder with depressed mood

 
Discharge Condition:
97.8  PO   155/74   54   16   95%RA 
A/B: Obese, good hygiene and grooming, calm, cooperative, good 
eye contact, no psychomotor agitation or retardation noted
S: normal rate, volume, prosody, goal directe
M: 'Depressed' 
A: slightly restricted, not dysthymic or dysphoric 
TC: reports ongoing SI, denies HI, does not appear to be 
responding to internal stimuli
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: limited/limited  

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___